US05910504
Methyl 3-pyrazolecarboxylate hydrochloride
10 mL of methanol at 0° C. was treated dropwise with 1 mL acetyl chloride, followed by addition of 2.0 g (17.84 mmol) of 4-pyrazolecarboxylic acid, followed by warming the mixture at reflux for 18 h. The solution was cooled and concentrated in vacuo to afford 2.6 g (90%) of the title compound as a white solid. 1H NMR (CD3OD) δ 8.25, 3.86.

reactant | acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-pyrazolecarboxylic acid | 17.84 mmol, 2.0 g | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | methanol | 10 mL | CO | CH4O
product | Methyl 3-pyrazolecarboxylate hydrochloride | 2.6 g, 90% | Cl.N1N=C(C=C1)C(=O)OC | InChI=1S/C5H6N2O2.ClH/c1-9-5(8)4-2-3-6-7-4;/h2-3H,1H3,(H,6,7);1H
